US08067445B2
Step 3: (5-Chloro-2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
(5-Chloro-2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.010 g, 0.03 mmol) in 1,4-dioxane (2 mL) was treated with 1N aqueous LiOH (1 mL) at room temperature for 1 hour. The solution was neutralized to pH 6 and extracted with EtOAc, and the combined organic layers were concentrated and purified by preparative HPLC to give the title compound.

reactant | (5-Chloro-2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.03 mmol, 0.010 g | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H19ClF3NO2
reactant | LiOH | 1N, 1 mL | [Li+].[OH-]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (5-Chloro-2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | ClC=1C=C(C=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)CC(=O)O | C18H17ClF3NO2
